US06924285B2
4-[(3-chloro-4-fluoro-phenyl)amino]-6-(1-trifluoroacetyl-piperidin-4-yloxy)-7-hydroxy-quinazoline
Prepared by treating 4-[(3-chloro-4-fluoro-phenyl)amino]-6-(1-trifluoroacetyl-piperidin-4-yloxy)-7-acetoxy-quinazoline-hydrochloride with saturated sodium hydrogen carbonate solution in methanol at ambient temperature. In addition to the desired product, some 4-[(3-chloro-4-fluoro-phenyl)amino]-6-(piperidin-4-yloxy)-7-hydroxy-quinazoline is also isolated as a by-product.

reactant | 4-[(3-chloro-4-fluoro-phenyl)amino]-6-(1-trifluoroacetyl-piperidin-4-yloxy)-7-acetoxy-quinazoline-hydrochloride | Cl.ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OC1CCN(CC1)C(C(F)(F)F)=O)OC(C)=O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | CO | CH4O
product | 4-[(3-chloro-4-fluoro-phenyl)amino]-6-(1-trifluoroacetyl-piperidin-4-yloxy)-7-hydroxy-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OC1CCN(CC1)C(C(F)(F)F)=O)O | C21H17ClF4N4O3
